US07595327B2
(3R,4R)-4-(4-(Benzyloxy)phenylsulfonamido)-3-methyl-tetrahydro-2H-pyran-3-carboxylic acid (715 mg, 1.76 mmol) was dissolved in DMF (8 mL), and BOP reagent (1.01 g, 2.29 mmol, 1.3 eq), N,N-diisopropylethylamine (1.2 mL, 7.04 mmol, 4.0 eq) and O-(tert-butyl)hydroxylamine hydrochloride (332 mg, 2.64 mmol, 1.5 eq) were sequentially added. The reaction was stirred at room temperature overnight and then diluted with ethyl acetate (200 mL), and washed with water (3×50 mL). The aqueous layer was re-extracted with ethyl acetate. The combined organic layers were washed with brine, dried over MgSO4, and concentrated affording (3R,4R)-4-(4-(benzyloxy)phenylsulfonamido)-N-tert-butoxy-3-methyl-tetrahydro-2H-pyran-3-carboxamide as white fluffy powder that was used in the next step without purification. MS: (M+Na)+=499.0; (M−H)−=475.2.

reactant | (3R,4R)-4-(4-(Benzyloxy)phenylsulfonamido)-3-methyl-tetrahydro-2H-pyran-3-carboxylic acid | 1.76 mmol, 715 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)S(=O)(=O)N[C@H]1[C@](COCC1)(C(=O)O)C | C20H23NO6S
reactant | BOP reagent | 2.29 mmol, 1.01 g, 1.3 eq | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 7.04 mmol, 1.2 mL, 4.0 eq | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-(tert-butyl)hydroxylamine hydrochloride | 2.64 mmol, 332 mg, 1.5 eq | Cl.C(C)(C)(C)ON
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | (3R,4R)-4-(4-(benzyloxy)phenylsulfonamido)-N-tert-butoxy-3-methyl-tetrahydro-2H-pyran-3-carboxamide | C(C1=CC=CC=C1)OC1=CC=C(C=C1)S(=O)(=O)N[C@H]1[C@](COCC1)(C(=O)NOC(C)(C)C)C | C24H32N2O6S
